US06057324
Ethyl 3-ethoxycarbonylmethyl-3-methoxycarbonyl-4-oxo-1-piperidineacetate (1.0 g) and 140 mg of lithium chloride were dissolved in 10 ml of N,N-dimethylformamide and the solution was refluxed for 48 hours. Then, 10 ml of water was added to the reaction liquid, and the mixture was extracted with 100 ml of ethyl acetate. The resulting extract was dried over sodium sulfate and concentrated. The resulting residue was purified by silica gel column chromatography (eluent: chloroform) to give 400 mg of diethyl 4-oxo-1,3-piperidinediacetate as an oily substance.

reactant | Ethyl 3-ethoxycarbonylmethyl-3-methoxycarbonyl-4-oxo-1-piperidineacetate | 1.0 g | C(C)OC(=O)CC1(CN(CCC1=O)CC(=O)OCC)C(=O)OC | C15H23NO7
reactant | lithium chloride | 140 mg | [Cl-].[Li+]
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | diethyl 4-oxo-1,3-piperidinediacetate | 400 mg | O=C1C(CN(CC1)CC(=O)OCC)CC(=O)OCC | C13H21NO5
